Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HMED ATTENDING ADMISSION NOTE
ADMIT DATE: ___
ADMIT TIME: 0400
Onc: Drs. ___ 
.
___ YO M with T2N2bM0 SCC of the tonsil, s/p G-tube currently 
receiving XRT and ___ + cisplatin (last given ___ presents 
to the ED with fever x 1 day.
.
Patient reports fever at home to 101.5.  Denies any sob, cp, 
abdominal pain or dysuria.  Denies any cough, n/v or diarrhea.  
Has severe tongue pain due to mucositis.  Baseline oropharyngeal 
pain is unchanged.  Patient has had mid-back pain x 5 days.  
Pain described as "ache", resolves when lying flat, worse with 
sitting or standing.  No radiation of pain.  Reports history of 
similar back pain in the past.  No sick contacts.  
.
Patient does not take anything by mouth due to oropharyngeal 
pain.  Receives all meds though G-tube.  Takes ___ cans of boost 
per day via G-tube.
.
ED: 104.7 124 150/85 20 97%; only one set of blood cultures 
obtained, ua/ucx sent, CT neck negative for abscess, CXR without 
infiltrate; patient given tylenol for fever, cefepime/vanco for 
neutropenic fever and viscous lidocaine for mucositis, morphine 
4mg iv x 1
.
ROS: as per HPI, 10 pt ROS otherwise negative
 
Past Medical History:
T2N2bM0 SCC of the tonsil 
G-tube placed in ___
Appendectomy at ___ years of age.
Genital/anal warts.
Chemical abuse including alcohol and heroin.  No IVDU.

 
Social History:
___
Family History:
Sister deceased from breast cancer.
 
Physical Exam:
VS  98.9  144/94  104P  18  98%RA
Appearance: alert, in pain, spitting out mucus
Eyes: eomi, perrl, anicteric
ENT: unable to fully open mouth due to pain, + ulcers on tongue, 
no thrush
Cv: +s1, s2  -m/r/g, no peripheral edema, 2+ dp/pt bilaterally
Pulm: clear bilaterally
Abd: soft, nt, nd, +bs, G-tube site c/d/i, no purulent drainage, 
no erythema
Msk: ___ strength throughout, no joint swelling, no cyanosis or 
clubbing
Neuro: cn ___ grossly intact, no focal deficits
Skin: no rashes
Psych: appropriate, pleasant
Heme: no cervical ___

___ upon discharge significant for a man with much less pain, 
no thrush or ulcers on oral exam. His discharge pulse was also 
___ on day of discharge.

 
Pertinent Results:
___ 11:00PM BLOOD WBC-1.0*# RBC-3.02* Hgb-10.2* Hct-28.7* 
MCV-95 MCH-33.7* MCHC-35.5* RDW-12.3 Plt ___
___ 06:16AM BLOOD WBC-0.8* RBC-2.76* Hgb-8.9* Hct-25.8* 
MCV-94 MCH-32.1* MCHC-34.3 RDW-12.7 Plt Ct-99*
___ 06:00AM BLOOD WBC-1.0* RBC-3.03* Hgb-10.0* Hct-28.1* 
MCV-93 MCH-33.1* MCHC-35.6* RDW-13.2 Plt ___
___ 07:38AM BLOOD WBC-1.0* RBC-2.99* Hgb-9.5* Hct-27.8* 
MCV-93 MCH-31.8 MCHC-34.3 RDW-13.2 Plt ___
___ 06:24AM BLOOD WBC-1.3* RBC-3.39* Hgb-10.8* Hct-31.4* 
MCV-93 MCH-31.8 MCHC-34.3 RDW-13.9 Plt ___
___ 06:53AM BLOOD WBC-1.3* RBC-3.46* Hgb-11.0* Hct-31.9* 
MCV-92 MCH-31.7 MCHC-34.4 RDW-13.6 Plt ___
___ 06:40AM BLOOD WBC-8.8# RBC-3.86* Hgb-12.1* Hct-35.9* 
MCV-93 MCH-31.2 MCHC-33.5 RDW-13.5 Plt ___
___ 06:40AM BLOOD WBC-8.3 RBC-3.70* Hgb-11.7* Hct-34.6* 
MCV-94 MCH-31.5 MCHC-33.7 RDW-13.6 Plt ___
___ 11:00PM BLOOD ___ ___
___ 06:00AM BLOOD ___ ___
___ 07:38AM BLOOD ___ ___
___ 06:24AM BLOOD ___ ___
___ 06:53AM BLOOD ___ ___
___ 06:40AM BLOOD ___ ___
___ 11:00PM BLOOD Glucose-106* UreaN-17 Creat-1.0 Na-135 
K-4.5 Cl-96 HCO3-28 AnGap-16
___ 06:16AM BLOOD Glucose-103* UreaN-15 Creat-0.9 Na-137 
K-4.2 Cl-102 HCO3-28 AnGap-11
___ 06:00AM BLOOD Glucose-98 UreaN-13 Creat-0.8 Na-135 
K-3.9 Cl-99 HCO3-28 AnGap-12
___ 07:38AM BLOOD Glucose-118* UreaN-11 Creat-0.7 Na-138 
K-3.8 Cl-101 HCO3-30 AnGap-11
___ 06:24AM BLOOD Glucose-91 UreaN-14 Creat-0.8 Na-139 
K-4.5 Cl-100 HCO3-32 AnGap-12
___ 06:53AM BLOOD Glucose-106* UreaN-14 Creat-0.8 Na-141 
K-5.1 Cl-103 HCO3-33* AnGap-10
___ 06:40AM BLOOD Glucose-94 UreaN-15 Creat-0.9 Na-138 
K-4.2 Cl-98 HCO3-32 AnGap-12
___ 06:40AM BLOOD Glucose-87 UreaN-17 Creat-0.8 Na-137 
K-4.6 Cl-98 HCO3-31 AnGap-13
___ 06:16AM BLOOD ALT-15 AST-14 LD(LDH)-138 AlkPhos-82 
Amylase-23 TotBili-0.5
___ 07:38AM BLOOD ALT-13 AST-10 LD(LDH)-141 AlkPhos-80 
TotBili-0.3
___ 06:24AM BLOOD ALT-14 AST-12 LD(LDH)-143 AlkPhos-84 
TotBili-0.4
___ 06:53AM BLOOD ALT-12 AST-12 LD(___)-138 AlkPhos-89 
TotBili-0.2
___ 06:40AM BLOOD ALT-14 AST-16 LD(LDH)-186 AlkPhos-112 
TotBili-0.3
___ 06:40AM BLOOD ALT-12 AST-15 LD(LDH)-176 AlkPhos-116 
TotBili-0.2
___ 06:16AM BLOOD Calcium-8.3* Phos-2.7 Mg-2.0
___ 06:00AM BLOOD Calcium-8.8 Phos-2.7 Mg-2.0
___ 07:38AM BLOOD Calcium-8.7 Phos-2.5* Mg-2.0
___ 06:24AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.1
___ 06:53AM BLOOD Calcium-9.3 Phos-4.2 Mg-2.1
___ 06:40AM BLOOD Calcium-9.6 Phos-3.3
___ 06:40AM BLOOD Calcium-9.2 Phos-4.4 Mg-2.2

___  44  ___
Radiology ReportCHEST (PA & LAT)Study Date of ___ 12:25 
AM
 
___ ___ 12:25 AM
CHEST (PA & LAT) Clip # ___  
Reason: r/o pneumonia
UNDERLYING MEDICAL CONDITION:
   ___ year old man on chemo for oral cancer, now febrile and 
tachycardic,
   productive cough
REASON FOR THIS EXAMINATION:
   r/o pneumonia
Final Report
INDICATION: ___ man on chemotherapy for oral cancer, now 
febrile and
tachycardic.
 
COMPARISON: Multiple chest radiographs, the latest from ___.
 
TWO VIEWS OF THE CHEST:
 
The lungs are well expanded and clear. The cardiomediastinal 
silhouette,
hilar contours, and pleural surfaces are normal. No pleural 
effusions or
pneumothorax is present. The left hilar prominence is unchanged 
since ___.
 
IMPRESSION:
 
No acute intrathoracic process.
 
The study and the report were reviewed by the staff radiologist.
 
___. ___
___. ___ ___ 8:19 AM
 Imaging Lab

___  44  ___
Radiology ReportCT NECK W/CONTRAST (EG:PAROTIDS)Study Date of 
___ 1:12 AM
 
___ ___ 1:12 AM
CT NECK W/CONTRAST (EG:PAROTID Clip # ___  
Reason: evaluate for abscess
Contrast: OPTIRAY Amt: 70
UNDERLYING MEDICAL CONDITION:
   ___ year old man with head and neck cancer, now febrile, says 
tongue feels more
   swollen than usual
REASON FOR THIS EXAMINATION:
   evaluate for abscess
CONTRAINDICATIONS FOR IV CONTRAST:
   None.
Wet Read: ___ ___ 2:35 AM
No evidence of an absence, with an unchanged left level II 
enlarged lymph
node.
Final Report
INDICATION: A ___ man with head and neck cancer, now 
febrile, states
tongue feels more swollen than usual.
 
COMPARISON: CT of the neck from ___.
 
TECHNIQUE: MDCT images were acquired through the neck with IV 
contrast.
Multiplanar reformations were obtained and reviewed.
 
FINDINGS:
 
The partially imaged brain is unremarkable. A left level 2 lymph 
node
measures about 1 cm and is unchanged compared to the previous 
examination
(image 42, series 2). No peritonsillar abscesses or fluid 
collection is noted
in the mid neck. The thyroid gland is unremarkable. The 
partially imaged
lung apices are clear.
 
IMPRESSION:
 
No presence of abscess or other fluid collection. Unchanged, 
enlarged left
level 2 lymph node.
 
 
The study and the report were reviewed by the staff radiologist.
 
___. ___
___. ___ ___ 9:59 AM
 Imaging Lab
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with T2N2bM0 SCC of the tonsil 
who was admitted with currently admitted with neutropenic fever 
approximately 2 weeks after receiving ___ with 
concurrent chemotherapy.
.
#Neutropenic fever: ANC 710 on admission and febrile to 101.5. 
Given mucositis, Mr. ___ was started on Vancomycin and 
Cefepime. Blood cultures from ___ were read out as no growth. 
UA/CXR were unremarkable, and no abscess was observed on CT of 
the neck. Mr. ___ was maintained on neutropenic precautions 
until ___ when Mr. ___ ___ rose above 1000 following 
one dose of Neupogen (300mcg SC). Antibiotics were stopped on 
___ after Mr. ___ was afebrile x 3 days and cultures 
were found to be negative.
.
#T2N2bM0 SCC of tonsil: Mr. ___ was continued on XRT while 
in house. He also experienced considerable pain secondary to 
mucositis. This was accomplished by maintaining his 100 mcg/hr 
fentanyl patch, adding on a morphine ___, and treating 
topically with viscous lidocaine. Eventually, Mr. ___ 
___ was titrated to manage his pain and this regimen 
corresponded to a basal rate of 3mg/hr with a bolus rate of 3mg 
(6 min delay) and a total hour lockout of 12mg. With the 
assistance of palliative care, the  ___ was weaned and the 
basal rate was then transitioned to an additional 75mcg/hr of 
transdermal fentanyl. The bolus morphine was converted to 
enteral morphine ___ mg every 2 hours as needed. A bowel 
regimen with liquid colace and lactulose.
.
#Thrush: Mr. ___ was noted on ___ to have oral thrush on 
exam. He was begun on Fluconazole 200mg daily for 3 days with 
complete eradication of thrush.
.
#FEN: Mr. ___ expressed a dyspepsia with 60cc/hr bolused 
tube feeds. He was transitioned to 45 cc/hr tube feeds with 
nutrition's guidance. He was maintained on the Boost formula. 
Mr. ___ dyspepsia also improved with twice daily 
ranitidine.

Transitional Issues:
--Timing of Next Chemotherapy will be addressed with Dr. 
___
 
___ on Admission:
-FENTANYL 100 mcg/hour Patch q72h
-OXYCODONE 10 mg Tablet 5 tablets q4h prn
Medications below only taken immediately after chemo:
-Dexamethasone 4mg po bid
-LORAZEPAM 1mg q4-6h prn nausea
-METOCLOPRAMIDE 10mg q6h prn nausea
-NYSTATIN 100,000 unit/mL Suspension 5cc daily
-OMEPRAZOLE MAGNESIUM [PRILOSEC]20mg suspension daily
-ONDANSETRON 4mg TID prn nausea

 
Discharge Medications:
1. nicotine 21 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
2. lidocaine HCl 2 % Solution Sig: Thirty (30) ML Mucous 
membrane Q1H (every hour) as needed for mouth pain.
___ ML(s)* Refills:*0*
3. fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 1 days.
Disp:*1 Tablet(s)* Refills:*0*
4. acetaminophen 650 mg/20.3 mL Solution Sig: Six Hundred Fifty 
(650) mg PO Q6H (every 6 hours) as needed for pain.
Disp:*1000 mg* Refills:*0*
5. fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) patch 
Transdermal Q72H (every 72 hours).
Disp:*10 patch* Refills:*0*
6. fentanyl 75 mcg/hr Patch 72 hr Sig: One (1) patch Transdermal 
every ___ (72) hours.
Disp:*10 patches* Refills:*0*
7. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
8. omeprazole magnesium 10 mg Susp,Delayed Release for Recon 
Sig: Twenty (20) mg PO once a day.  
9. lorazepam 1 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for anxiety.  
10. ondansetron 4 mg Tablet, Rapid Dissolve Sig: ___ Tablet, 
Rapid Dissolves PO three times a day as needed for nausea.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*
11. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO twice a 
day: Use as directed by Dr. ___.  
12. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day).
Disp:*300 mL* Refills:*2*
13. ranitidine HCl 15 mg/mL Syrup Sig: One Hundred Fifty (150) 
mg PO BID (2 times a day) as needed for heartburn.
Disp:*qs mg* Refills:*0*
14. Nutrition
Boost Plus, 1 can 4 times daily.  Check for residuals prior to 
feed, and hold feed if residuals are greater than 200cc
15. docusate sodium 50 mg/5 mL Liquid Sig: One Hundred (100) mg 
PO BID (2 times a day) as needed for constipation.
Disp:*qs mg* Refills:*0*
16. morphine 30 mg Tablet Sig: ___ Tablets PO Q2H: do not drive 
or orperate heavy machinery.
Disp:*180 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Squamous Cell Carcinoma of Tonsil
Thrush

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   You were admitted with neutropenic fever, and severe pain 
related to your tonsillar cancer. Your white cell counts 
improved over time. Initially we treated you with antibiotics 
for bacteria which likely translocated from your mouth to your 
bloodstream. After several days of no fevers, we were able to 
stop the antibiotics. While you were here, we also found that 
you had thrush. 

The following medication changes have been made to your 
medications:
START Fluconazole for 1 more day
START oral morphine ___ every 2h as needed for severe pain
START tylenol ___ solution every 6h as needed for pain
START ranitidine 150mg twice daily as needed for heartburn
INCREASE fentanyl to 175mcg/hr TD patch
START viscous lidocaine every 1 hour as needed
STOP Oxycodone 
START Lactulose as needed for constipation
Please take all other medications as directed
 
Followup Instructions:
___